US05646140
3-Amino-1-(4-methoxybenzyI)-5-phenyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione
To a vigorously stirred slurry of zinc dust (6.49 g) in acetic acid (50 ml) cooled to 10° C., was added a slurry of 1 -(4-Methoxybenzyl)-5-phenyl-3-(phenylhydrazono)-1,5-dihydrobenzo [b] [1, 4] diazepine-2, 4-dione (5.75 g,12.1 mmol) in acetic add (30 ml) over a fifteen minute period. After complete addition, the solution was warmed to room temperature and stirred three hours. The zinc was separated by filtration and washed with ethyl acetate (75 ml). The filtrate was concentrated in vacuo and partitioned between H2O (60 ml) and ethyl acetate (100 ml). The pH was adjusted to 9 with saturated aqueous sodium carbonate and the phases separated. The aqueous phase was extracted with ethyl acetate (2×75 ml), the organic layers combined, dried with magnesium sulfate, filtered and concentrated in vacuo to give a yellow oil which was dried in vacuo to give the title compound (4.79 g) NMR (300 MHz, CDCl3): d 3.05 (s, 2H), 3.75 (s, 3H), 4.35 (s, 1H), 4.64 (d, J=14.7 Hz, 1H), 5.82 (d, J=14.7 Hz, 1H), 6.59-6.85 (m, 6H), 7.06-7.29 (m, 6H), 7.51(d, J=7.4 Hz. 1H); MS (FAB): m/z=388.2 (MH+); TLC (CH2Cl2 /CH3OH (9:1)): Rf =0.50.

reactant | 1 -(4-Methoxybenzyl)-5-phenyl-3-(phenylhydrazono)-1,5-dihydrobenzo [b] [1, 4] diazepine-2, 4-dione | 12.1 mmol, 5.75 g | COC1=CC=C(CN2C3=C(N(C(C(C2=O)=NNC2=CC=CC=C2)=O)C2=CC=CC=C2)C=CC=C3)C=C1 | C29H24N4O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
catalyst | zinc | 6.49 g | [Zn] | Zn
product | 3-Amino-1-(4-methoxybenzyI)-5-phenyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 4.79 g | NC1C(N(C2=C(N(C1=O)CC1=CC=C(C=C1)OC)C=CC=C2)C2=CC=CC=C2)=O | C23H21N3O3
